US08703758B2
E) benzyl 4-(2-azido-3,3,3-trifluoropropoxy)piperidine-1-carboxylate
A mixture of benzyl 4-{3,3,3-trifluoro-2-[(methylsulfonyl)oxy]propoxy}piperidine-1-carboxylate (1.31 g), sodium azide (1.00 g), 15-crown-5-ether (3.39 g) and dimethyl sulfoxide (5 mL) was stirred at 100° C. for 3 days. Water was added thereto, and the obtained mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (294 mg).

reactant | benzyl 4-{3,3,3-trifluoro-2-[(methylsulfonyl)oxy]propoxy}piperidine-1-carboxylate | 1.31 g | FC(C(COC1CCN(CC1)C(=O)OCC1=CC=CC=C1)OS(=O)(=O)C)(F)F | C17H22F3NO6S
reactant | sodium azide | 1.00 g | [N-]=[N+]=[N-].[Na+]
reactant | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
solvent | Water | O | H2O
product | benzyl 4-(2-azido-3,3,3-trifluoropropoxy)piperidine-1-carboxylate | 294 mg | N(=[N+]=[N-])C(COC1CCN(CC1)C(=O)OCC1=CC=CC=C1)C(F)(F)F | C16H19F3N4O3
